US07652015B2
1-{6-[4-(2,2-Dimethyl-pentanoyl)-piperazin-1-yl]-piperidin-3-yl}-3-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea
Treat a solution or slurry of the 1-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-(6-piperazin-1-yl-pyridin-3-yl)-urea (Preparation 5, 1 equiv., 0.1510 g), 2,2-dimethyl pentanoic acid (1.15 equiv., 0.0521 g) and catalytic DMAP (ca. 0.1 equiv., 0.049 g) in dichloromethane (ca. 0.1 M, 5 mL) with N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDC1.15 equiv., 0.0767 g). Agitate the resulting mixture at ambient temperature for 48 hours then wash with saturated aq. sodium bicarbonate solution. Dry the organic layer over sodium sulfate and concentrate under reduced pressure. Purification A: Purify on silica gel using a gradient 2 M ammonia-methanol in dichloromethane, a gradient of ethyl acetate in dichloromethane or hexanes. Purification B: Purify by reverse phase on an Xterra 30×75 mm 5 micron MS C18 column using a gradient of aqueous 10 mM ammonium bicarbonate in acetonitrile affords the title compound. LCMS(ES+): m/z=544. [M+H].

reactant | 1-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-(6-piperazin-1-yl-pyridin-3-yl)-urea | 0.1510 g, 1 equiv. | CC1(CC1)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C=NC(=CC1)N1CCNCC1 | C24H29N7O
reactant | 2,2-dimethyl pentanoic acid | 0.0521 g, 1.15 equiv. | CC(C(=O)O)(CCC)C | C7H14O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.0767 g, 15 equiv. | Cl.CN(CCCN=C=NCC)C
catalyst | DMAP | 0.049 g, ca. 0.1 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | ca. 0.1 M, 5 mL | ClCCl | CH2Cl2
product | 1-{6-[4-(2,2-Dimethyl-pentanoyl)-piperazin-1-yl]-piperidin-3-yl}-3-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea | CC(C(=O)N1CCN(CC1)C1CCC(CN1)NC(=O)NC=1N(N=C(C1)C1(CC1)C)C1=CC=C(C=C1)C)(CCC)C | C31H47N7O2
